* source LAB1
R_R1         N00526 N00521  2k TC=0,0 
V_V1         N00521 0 12Vdc
D_D1         N00526 N00564 Dbreak 
R_R2         0 N00526  8k TC=0,0 
R_R3         N00564 N00521  4k TC=0,0 
R_R4         0 N00564  6k TC=0,0 
